US04544766
A 0.1 mole quantity of p-hydroxyphenyl trichloromethyl carbinol was dissolved in 0.3 mole of pyridine. To the solution was dropwise added 0.22 mole of acetic acid anhydride with stirring. The resulting mixture was agitated for 2 hours. After completion of the reaction, the pyridine was distilled off at reduced pressure and the residue was washed with 50 ml of water. The crystals were filtered off to obtain ester of p-acetoxyphenyl trichloromethyl carbinol and acetic acid. Yield 98.5%, m.p. 152.5°-153° C.

reactant | p-hydroxyphenyl trichloromethyl carbinol | OC1=CC=C(C=C1)C(O)C(Cl)(Cl)Cl | C8H7Cl3O2
reactant | pyridine | 0.3 mole | N1=CC=CC=C1 | C5H5N
reactant | acetic acid anhydride | 0.22 mole | C(C)(=O)OC(C)=O | C4H6O3
product | p-acetoxyphenyl trichloromethyl carbinol | Yield 98.5% | C(C)(=O)OC1=CC=C(C=C1)C(O)C(Cl)(Cl)Cl | C10H9Cl3O3
